US06333336B1
N-{3-[2-(4-Chlorophenyl)-3, 5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]phenyl}methanesulphonamide
To a stirred solution of 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one (0.100 g, 0.285 mmol) in anhydrous ethylene glycol, dimethyl ether (5 ml) was added portionwise, over a few hours, pyridine (0.228 ml, 2.82 mmol) and methanesulphonyl chloride (0.174 ml, 2.25 mmol), and the mixture was heated at 50° C. for 1.5 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 5-10% MeOH/CH2Cl2) to leave 0.1119 g (92%) of the title compound as a yellow solid; mp 332-341° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ2.28 (3H, s), 3.06 (3H, s), 7.24 (2H, dd, J 7.9, J′1.8 Hz), 7.40 (1H, m), 7.43 (2H, d, J 9.0 Hz), 7.46 (1H, t, J 8.0 Hz), 8.13 (2H, d, J 9.0 Hz), 8.56 (1H, s); MS (ES+) m/z 429/431[MH]+. Anal. found: C, 55.89; H, 4.06; N, 12.60. C20H17CLN4O3S.0.2H2O requires: C, 55.54; H, 4.06; N, 12.95%.

reactant | 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one | 0.285 mmol, 0.100 g | NC=1C=C(C=CC1)C=1C=2C(=CNC1C)C(N(N2)C2=CC=C(C=C2)Cl)=O | C19H15ClN4O
reactant | pyridine | 2.82 mmol, 0.228 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonyl chloride | 2.25 mmol, 0.174 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | dimethyl ether | 5 ml | COC | C2H6O
product | N-{3-[2-(4-Chlorophenyl)-3, 5-dihydro-6-methyl-3-oxo-2H-pyrazolo[4,3-c]pyridin-7-yl]phenyl}methanesulphonamide | 0.1119 g, 92% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C=2C=C(C=CC2)NS(=O)(=O)C)C)C1=O | C20H17ClN4O3S
